US08957070B2
Ethyl 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate
A mixed solution of ethyl 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate (105 mg), 6N hydrochloric acid (4 mL) and ethanol (4 mL) was stirred at 80° C. for 3 hr. The reaction solution was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained colorless crystals were suspended in dichloromethane (10 mL), and thionyl chloride (0.20 mL) and N,N-dimethylformamide (1 drop) were added. The mixture was stirred at 50° C. for 2 hr. Ethanol (2 mL) and triethylamine (1 mL) were added to the reaction solution, and the mixture was stirred at 50° C. for 2 hr. The reaction solution was concentrated under reduced pressure. The obtained residue was diluted with ethyl acetate, washed with aqueous citric acid solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:9-2:8), and the obtained oil was crystallized from diethyl ether-hexane to give the title compound (41 mg, yield 43%) as colorless crystals. melting point 192-193° C.

reactant | ethyl 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 105 mg | COCN1C(=CC2=CC(=CC(=C12)NS(=O)(=O)C=1SC=CC1)OC(F)(F)F)C(=O)OCC | C18H17F3N2O6S2
reactant | hydrochloric acid | 6N, 4 mL | Cl | ClH
reactant | ethanol | 4 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 41 mg, yield 43% | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC(F)(F)F | C16H13F3N2O5S2
